US07342007B2
a. methyl N-[(2S)-2-hydroxy-4-methylpentanoyl]-L-leucinate (7a)
To a solution of L-leucine methyl ester hydrochloride (1.97 g) dissolved in DCM (32 mL) was added NMM (1.9 mL) and the mixture was stirred for 5 minutes before being cooled to 0° C. HOBt (4.0 g), EDAC (3.8 g) and L-α-hydroxyisocaproic acid (1.35 g) were then added sequentially to the reaction mixture. After 30 minutes at 0° C., the reaction was allowed to warm to room temperature and continued stirring overnight. The reaction mixture was concentrated and the resulting crude product was dissolved in EtOAc and washed 2×1.2N HCl, 2× saturated NaHCO3, brine, dried (MgSO4) and concentrated to yield the desired product (2.32 g, 82%). 1H NMR (300 MHz, CDCl3) δ 0.93-0.96 (m, 12H), 1.50-1.67 (m, 5H), 1.82-1.93 (m, 1H), 3.73 (s, 3H), 3.83 (bs, 1H), 4.11-4.18 (m, 1H), 4.57-4.64 (m, 1H), 7.07 (d, 1H).

reactant | L-leucine methyl ester hydrochloride | 1.97 g | Cl.COC([C@@H](N)CC(C)C)=O
reactant | NMM | 1.9 mL | CN1CCOCC1 | C5H11NO
reactant | HOBt | 4.0 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | EDAC | 3.8 g | CCN=C=NCCCN(C)C | C8H17N3
reactant | L-α-hydroxyisocaproic acid | 1.35 g | CC(C)C[C@@H](C(=O)O)O | C6H12O3
solvent | DCM | 32 mL | C(Cl)Cl | CH2Cl2
product | methyl N-[(2S)-2-hydroxy-4-methylpentanoyl]-L-leucinate | 2.32 g, 82% | O[C@H](C(=O)N[C@@H](CC(C)C)C(=O)OC)CC(C)C | C13H25NO4
